US07713994B2
To a 0° C. mixture of (7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methanol (0.57 g, 2.0 mmol) and diphenylphosphoryl azide (0.52 mL, 2.4 mmol) in tetrahydrofuran (10 mL) is added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.33 mL, 2.2 mmol). The mixture is allowed to warm to room temperature over the weekend and then quenched with the addition of water. The reaction mixture is extracted 3× with ethyl acetate, and the combined extracts were washed with 5% aqueous potassium hydrogen sulfate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated to give 6-azidomethyl-4-benzyloxy-2,2-dimethyl-benzo[1,3]dioxole, which is used in the next step without purification.

reactant | (7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methanol | 2.0 mmol, 0.57 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1OC(O2)(C)C)CO | C17H18O4
reactant | diphenylphosphoryl azide | 2.4 mmol, 0.52 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.2 mmol, 0.33 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-azidomethyl-4-benzyloxy-2,2-dimethyl-benzo[1,3]dioxole | N(=[N+]=[N-])CC=1C=C(C2=C(OC(O2)(C)C)C1)OCC1=CC=CC=C1 | C17H17N3O3
